US07745553B2
Synthesis of 3-{[(tert-butylsulfanyl)carbonothioyl]sulfanyl}propanoic Acid
A solution of sodium hydroxide (1.0 g; 25 mmol) in water (5 mL) was added to acetone (70 mL) followed by tetrapropylammonium bromide (0.53 g; 20 mmol) and then tert-butyl mercaptan (2.26 g; 25 mmol; 2.82 mL) with stirring forming a white precipitate. After 20 min. carbon disulfide (2.12 g; 27.5 mmol; 1.67 mL) was added dropwise causing the precipitate to slowly disappear and an orange solution to form. After stirring the resulting solution for an additional 40 min, 2-bromopropanoic acid (3.83 g; 25 mmol; 2.26 mL) was added dropwise and then the whole was stirred for 18 h. Acetone and excess carbon disulfide were removed under high vacuum to give an orange oil. This was diluted with water (100 mL) giving an aqueous solution of pH 4. This was extracted with ether, the combined extracts were dried (Na2SO4) and the solvent was removed under high vacuum. The remaining viscous orange oil was frozen in liquid nitrogen and kept in the freezer for 20 h during which time a solid mass developed. The solid was triturated with hexane with stirring for 2 h and then filtered, washing with more hexane. The title compound was obtained as a yellow solid (2.06 g; 35%).

reactant | sodium hydroxide | 25 mmol, 1.0 g | [OH-].[Na+]
reactant | tert-butyl mercaptan | 25 mmol, 2.82 mL, 2.26 g | C(C)(C)(C)S | C4H10S
reactant | carbon disulfide | 27.5 mmol, 1.67 mL, 2.12 g | C(=S)=S | CS2
reactant | 2-bromopropanoic acid | 25 mmol, 2.26 mL, 3.83 g | BrC(C(=O)O)C | C3H5BrO2
solvent | water | 5 mL | O | H2O
catalyst | tetrapropylammonium bromide | 20 mmol, 0.53 g | [Br-].C(CC)[N+](CCC)(CCC)CCC
solvent | water | 100 mL | O | H2O
solvent | acetone | 70 mL | CC(=O)C | C3H6O
product | 3-{[(tert-butylsulfanyl)carbonothioyl]sulfanyl}propanoic Acid | C(C)(C)(C)SC(=S)SCCC(=O)O | C8H14O2S3
